US07910734B2
1-Cyclopropylmethyl-4-[2-(3,3,5,5-tetramethylcyclohexyl)phenyl]piperazine ethanesulfonate
To 1-cyclopropylmethyl-4-[2-(3,3,5,5-tetramethylcyclohexyl)phenyl]piperazine (1.30 g, 3.67 mmol) were added ethyl alcohol (1.3 mL) and ethanesulfonic acid (412 mg, 3.74 mmol), followed by heating and stirring at an external temperature of 78° C. to form a thoroughly dissolved sate. To the mixture was slowly added heptane (7 mL) over 40 minutes, then was slowly added heptane (14 mL) over 35 minutes, and the external temperature was maintained at 78° C. for 20 minutes. The suspension containing precipitated crystals was stirred for 3 hours while slowly cooling the external temperature to 35° C. The mixture was stirred at room temperature for 30 minutes, then at an external temperature of 5° C. for 1 hour. Precipitated crystals were collected by suction filtration, and aircured by aspiration over 20 minutes with nitrogen gas. The crystals were dried under reduced pressure using a vacuum pump at room temperature for 4 hours, and hot-air dried at 50° C. for 4 hours and at 60° C. for 10 hours to give 1.64 g of the title compound as colorless crystals.

reactant | 1-cyclopropylmethyl-4-[2-(3,3,5,5-tetramethylcyclohexyl)phenyl]piperazine | 3.67 mmol, 1.30 g | C1(CC1)CN1CCN(CC1)C1=C(C=CC=C1)C1CC(CC(C1)(C)C)(C)C | C24H38N2
reactant | ethyl alcohol | 1.3 mL | C(C)O | C2H6O
reactant | ethanesulfonic acid | 3.74 mmol, 412 mg | C(C)S(=O)(=O)O | C2H6O3S
solvent | heptane | 14 mL | CCCCCCC | C7H16
solvent | heptane | 7 mL | CCCCCCC | C7H16
product | 1-Cyclopropylmethyl-4-[2-(3,3,5,5-tetramethylcyclohexyl)phenyl]piperazine ethanesulfonate | 1.64 g | C(C)S(=O)(=O)O.C1(CC1)CN1CCN(CC1)C1=C(C=CC=C1)C1CC(CC(C1)(C)C)(C)C | InChI=1S/C24H38N2.C2H6O3S/c1-23(2)15-20(16-24(3,4)18-23)21-7-5-6-8-22(21)26-13-11-25(12-14-26)17-19-9-10-19;1-2-6(3,4)5/h5-8,19-20H,9-18H2,1-4H3;2H2,1H3,(H,3,4,5)
